US07910740B2
2-Methoxy-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-ethanone
The title compound was prepared in analogy to example 53 from 90 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride and 20 mg (0.22 mmol) methoxyacetic acid yielding 46 mg (56%) 2-methoxy-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-ethanone as a light yellow solid. MS ISP (m/e): 414.2 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.32 (s, 1H), 7.65 (s, 1H), 7.48 (s, 1H), 7.29 (d, 1H), 7.24 (d, 1H), 7.02 (s, 1H), 4.54 (br s, 2H), 4.20 & 4.14 (s, 2H), 3.78 (s, 3H), 3.78 & 3.68 (m, 2H), 3.32 (s, 3H), 2.73-2.60 (m, 2H), 2.14 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride | 0.2 mmol, 90 mg | Cl.Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CNCCC2N1
reactant | methoxyacetic acid | 0.22 mmol, 20 mg | COCC(=O)O | C3H6O3
product | 2-Methoxy-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl}-ethanone | COCC(=O)N1CC2=C(CC1)N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C20H23N5O3S
